US04046762
N-isopropyl-(3-phenyl-1,4-benzodioxan-2-yl)-carboxamide
To 22 g of (3-phenyl-1,4-benzodioxan-2-yl)-carboxylic acid in 300 cc of anhydrous benzene are added 18.1 g of PCl5 in portions with cooling. After 2 hours the reaction mixture is added to a cold solution of isopropylamine in anhydrous benzene. After stirring for 2 hours, the product is poured onto ice. The organic phase is separated, washed with H2O and finally dried over Na2SO4. The solvent is removed under vacuum. The residue is crystallised from isopropyl alcohol, m.p. = 196°-8°.

reactant | (3-phenyl-1,4-benzodioxan-2-yl)-carboxylic acid | 22 g | C1(=CC=CC=C1)C1OC2=C(OC1C(=O)O)C=CC=C2 | C15H12O4
reactant | PCl5 | 18.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | benzene | 300 cc | C1=CC=CC=C1 | C6H6
product | N-isopropyl-(3-phenyl-1,4-benzodioxan-2-yl)-carboxamide | C(C)(C)NC(=O)C1C(OC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C18H19NO3
